US04716159
Phosphorus oxychloride (760 ml), 3-phenyl-pyridazino[4,3-c]isoquinolin-6(5H)-one (74 g, 0.27 mol) and phosphorus pentachloride (58 g, 0.278 mol) in a 2 litre flask are heated to reflux temperature with stirring. Heating is continued for about 3.5 hours, then a solution is obtained which is evaporated under reduced pressure to eliminate the phosphorus oxychloride excess. The solid is taken up with benzene and then evaporated to dryness in order to eliminate all the unreacted phosphorus oxychloride. Then the reaction mass is taken up with methylene chloride (1500 ml) and washed with 10% aqueous ammonium acetate (two times; first with 800 ml and then with 400 ml), and subsequently with water up to neutrality. The methylene chloride phase is dried on magnesium sulfate and the solvent is evaporated under reduced pressure. The solid residue is disaggregated and washed with methylene chloride (300 ml) and filtered, yielding 6-chloro-3-phenyl-pyridazino-[4,3-c]isoquinoline (63 g). By concentrating the mother liquors to dryness and crystallizing the obtained solid from acetone, 11 g of the same product is obtained. These two crops of 6-chloro 3-phenylpyridazino[4,3-c]isoquinoline derivatives are pooled and recrystallized from acetone, with a 90% overall yield. The product has a melting point of 177°-178° C.

reactant | 3-phenyl-pyridazino[4,3-c]isoquinolin-6(5H)-one | 0.27 mol, 74 g | C1(=CC=CC=C1)C1=CC=2NC(C=3C=CC=CC3C2N=N1)=O | C17H11N3O
reactant | phosphorus pentachloride | 0.278 mol, 58 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | Phosphorus oxychloride | 760 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-phenyl-pyridazino-[4,3-c]isoquinoline | 63 g | ClC1=NC2=C(C=3C=CC=CC13)N=NC(=C2)C2=CC=CC=C2 | C17H10ClN3
